US05395752
To a solution of 2-hydroxy-benz[b]acridine-12-carboxylic acid hydrochloride (360 mg, 1,108 mmol) in methyl sulfoxide (11 ml) were added cesium carbonate (3.61 g, 11.08 mmol) and N,N-dimethylaminoethyl bromide hydrobromide (1.03 g, 4.432 mmol). After 15 hours of stirring at 60° C. under nitrogen, the reaction mixture was diluted with methyl sulfoxide (20 ml) and filtered to remove the insoluble impurities. The filtrate was concentrated under reduced pressure to a small volume, which was separated on a preparative-TLC plate (2 mm silica gel) by developing with chloroform/methanol/water (47:48:5). The desired orange band was collected and extracted with 25% methanol/chloroform. Removal of the solvents under reduced pressure gave N,N-dimethylaminoethyl 2-(N,N-dimethylamino)ethoxy-benz[b]acridine-12-carboxylate (86 mg, 18%). Rf 0.6 (silica gel, chloroform/methanol/water 65:25:4). MS (FAB, Glycerol Matrix): m/z 432 (M+1).

reactant | 2-hydroxy-benz[b]acridine-12-carboxylic acid hydrochloride | 1,108 mmol, 360 mg | Cl.OC=1C=CC=2N=C3C=C4C(=CC3=C(C2C1)C(=O)O)C=CC=C4
reactant | cesium carbonate | 11.08 mmol, 3.61 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylaminoethyl bromide hydrobromide | 4.432 mmol, 1.03 g | Br.CN(C)CCBr
solvent | methyl sulfoxide | 11 ml | CS(=O)C | C2H6OS
solvent | methyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | N,N-dimethylaminoethyl 2-(N,N-dimethylamino)ethoxy-benz[b]acridine-12-carboxylate | 86 mg, 18% | CN(C)CCOC1=CC=CC=2N=C3C=C4C(=CC3=C(C12)C(=O)OCCN(C)C)C=CC=C4 | C26H29N3O3
